US06747047B2
Step B: Preparation of 2-[1-Ethyl-3-trifluoromethylpyrazol-5-yl carbamoyl]-3-methyl-N-(1-methylethyl)benzamide
To a solution of 1-ethyl-3-trifluoromethyl-pyrazol-5-yl carboxylic acid (0.5 g, 2.4 mmol) stirring in 20 mL of methylene chloride, oxalyl chloride (1.2 mL, 14 mmol) was added. Upon addition of 2 drops of N,N-dimethylformamide, foaming and bubbling occurred. The reaction mixture was heated at reflux for 1 hr as a yellow solution. After cooling, the solvent was removed in vacuo and the resulting residue dissolved in 20 mL of tetrahydrofuran. To the stirred solution, 2-amino-3-methyl-N-(1-methylethyl)benzamide (0.7 g, 3.6 mmol) was added followed by the dropwise addition of N,N-diisopropylethylamine (3 mL, 17 mmol). After stirring at room temperature overnight, the reaction mixture was partitioned between ethyl acetate (100 mL) and 1N aqueous hydrochloric acid (75 mL). The separated organic layer was washed with water and brine and dried over magnesium sulfate. Evaporating in vacuo gave a white solid residue, which on purification by flash column chromatography on silica gel (2:1 hexanes/ethyl acetate) afforded 0.5 g of the title compound, a compound of the present invention, melting at 223-226° C.

reactant | 1-ethyl-3-trifluoromethyl-pyrazol-5-yl carboxylic acid | 2.4 mmol, 0.5 g | C(C)N1N=C(C=C1C(=O)O)C(F)(F)F | C7H7F3N2O2
reactant | oxalyl chloride | 14 mmol, 1.2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-amino-3-methyl-N-(1-methylethyl)benzamide | 3.6 mmol, 0.7 g | NC1=C(C(=O)NC(C)C)C=CC=C1C | C11H16N2O
reactant | N,N-diisopropylethylamine | 17 mmol, 3 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
product | 2-[1-Ethyl-3-trifluoromethylpyrazol-5-yl carbamoyl]-3-methyl-N-(1-methylethyl)benzamide | 0.5 g | C(C)N1N=C(C=C1NC(=O)C1=C(C(=O)NC(C)C)C=CC=C1C)C(F)(F)F | C18H21F3N4O2
